US05102566
N-(3,5-di-tert-butyl-4-hydroxyphenyl)carbamic acid octyl ester.
Amides of β-(3,5-di-tert-butyl-4-hydroxyphenyl)propionic acid, e.g., N,N'-di(3,5-di-tert-butyl-4-hydroxyphenylproprionyl)hexamethylenediamine; N,N'-di(3,5-di-tert-butyl-4-hydroxyphenylpropionyl)trimethylenediamine; N,N'-di(3,5-di-tert-butyl-4-hydroxyphenylpropionyl)hydrazine.

reactant | β-(3,5-di-tert-butyl-4-hydroxyphenyl)propionic acid | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)CCC(=O)O | C17H26O3
reactant | N,N'-di(3,5-di-tert-butyl-4-hydroxyphenylproprionyl)hexamethylenediamine | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)CCC(=O)NCCCCCCNC(CCC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)=O | C40H64N2O4
reactant | N,N'-di(3,5-di-tert-butyl-4-hydroxyphenylpropionyl)trimethylenediamine | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)CCC(=O)NCCCNC(CCC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)=O | C37H58N2O4
reactant | N,N'-di(3,5-di-tert-butyl-4-hydroxyphenylpropionyl)hydrazine | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)CCC(=O)NNC(CCC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)=O | C34H52N2O4
product | N-(3,5-di-tert-butyl-4-hydroxyphenyl)carbamic acid octyl ester | C(CCCCCCC)OC(NC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)=O | C23H39NO3
